US05324747
A solution of 41.4 g (0.12 mol) of 3,5-bis(phenylmethoxy)benzoic acid methyl ester and 59 ml (0.36 mol) of 6N NaOH in 700 ml of methanol and 350 ml of dioxane was stirred at reflux for 17 hours. The solvents were removed at reduced pressure and the residue was dissolved in water and acidified to pH 3 with 6N HCl. The resultant solid was filtered and recrystallized from methylene chloride-methanol to give 38.6 g (97% yield, mp 211°-213°) of 3,5-bis(phenylmethoxy)benzoic acid.

reactant | 3,5-bis(phenylmethoxy)benzoic acid methyl ester | 0.12 mol, 41.4 g | COC(C1=CC(=CC(=C1)OCC1=CC=CC=C1)OCC1=CC=CC=C1)=O | C22H20O4
reactant | NaOH | 0.36 mol, 6N, 59 ml | [OH-].[Na+]
solvent | methanol | 700 ml | CO | CH4O
solvent | dioxane | 350 ml | O1CCOCC1 | C4H8O2
product | 3,5-bis(phenylmethoxy)benzoic acid | 38.6 g, 97% yield | C1(=CC=CC=C1)COC=1C=C(C(=O)O)C=C(C1)OCC1=CC=CC=C1 | C21H18O4
